US05271864
4-(4-methyl-3-pentenyl)-3-cyclohexen-1-methanol was synthesized as follows. An oven-dried refluxing condenser and an oven-dried 125 ml pressure-equalized addition funnel was attached to an oven-dried 500 ml 3-neck round-bottom flask. A magnetic stir bar was added, along with lithium aluminum hydride (LAH; 3.64 g or 96 mmol). Tetrahydrofuran (100 ml) was then added, and the suspension was cooled to 0° C. in an ice bath. A solution of 4-(4-methyl-3-pentenyl)-3-cyclohexen-1-carboxylic acid (10 g or 48 mmol) and THF (30 ml) was placed in the addition funnel, and the acid solution was added dropwise to the LAH suspension over a period of about 10 minutes. The residual acid in the addition funnel was washed into the LAH suspension with two further 10 ml aliquots of THF, the ice bath was removed, and the reaction was allowed to stir for at least 3 hours. After stirring, the reaction was again cooled to 0° C. and 18 ml water (5 ml water for each g LAH) was placed in the addition funnel. A further 50 ml THF was added to the reaction mixture to make the LAH suspension less viscous, and the evolved hydrogen gas was allowed to escape. The water was added dropwise to the LAH suspension over a period of about 30 minutes. The ice bath was then removed and the gray suspension was allowed to stir (approximately 3 hours) until the reaction turned white with no residual gray color. The reaction mixture was then acidified with 2M HCl (150 ml), extracted with a 1:1 (v/v) ethyl acetate:hexane mixture (shaken with saturated NaCl), dried over a mixture of anhydrous Na2SO4 and K2CO3, filtered, and rotary evaporated. Thin layer chromatography using 1:4 (v/v) ethyl acetate:hexane showed the product at Rf 0.17, with small impurity at Rf 0.0 and Rf 0.26. Removal of solvent, at 92°-95° C., 1 torr, gave 8.89 g (95%) of 4-(4-methyl-3-pentenyl)-3-cyclohexen-1-methanol, as a slightly yellow oil.

reactant | lithium aluminum hydride | 96 mmol, 3.64 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-methyl-3-pentenyl)-3-cyclohexen-1-carboxylic acid | 48 mmol, 10 g | CC(=CCCC1=CCC(CC1)C(=O)O)C | C13H20O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-methyl-3-pentenyl)-3-cyclohexen-1-methanol | 8.89 g, 95% | CC(=CCCC1=CCC(CC1)CO)C | C13H22O
